US08486962B2
N,N-dipropylamine (3 ml, 22 mmol) was added to a solution of 2-chloro-5-nitropyridine (500 mg, 3.15 mmol) in acetonitrile (7 ml) and heated to reflux overnight. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was then washed with water, brine and dried. Evaporation to dryness gave (5-nitro-pyridin-2-yl)-dipropylamine (630 mg, 90%) as oil.

reactant | N,N-dipropylamine | 22 mmol, 3 ml | C(CC)NCCC | C6H15N
reactant | 2-chloro-5-nitropyridine | 3.15 mmol, 500 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | (5-nitro-pyridin-2-yl)-dipropylamine | 630 mg, 90% | [N+](=O)([O-])C=1C=CC(=NC1)N(CCC)CCC | C11H17N3O2
